US08455477B2
Into a 10 L 3-necked roundbottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of triphenylphosphine (516.6 g, 1.970 mol) in dichloromethane (2,000 ml). The solution was cooled to −15° C. and a solution of carbontetrabromide (327.3 g, 985.8 mmol) in dichloromethane (1,000 ml) was added over a period of 120 minutes. Then a solution of tert-butyl 2-(2-oxoethyl)pyrrolidine-1-carboxylate (105 g, 493 mmol) in dichloromethane (1,000 ml) was added dropwise over a period of 120 minutes. The resulting solution was allowed warm to warm to 0° C., and stir for 20 minutes. The resulting solution was diluted with 4,000 ml of petroleum ether. The mixture was filtered and concentrated. The residue was purified by flash column chromatography (ethylacetate/petroleum ether gradient) to afford tert-butyl 2-(3,3-dibromoprop-2-en-1-yl)pyrrolidine-1-carboxylate.

reactant | triphenylphosphine | 1.970 mol, 516.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbontetrabromide | 985.8 mmol, 327.3 g | C(Br)(Br)(Br)Br | CBr4
reactant | tert-butyl 2-(2-oxoethyl)pyrrolidine-1-carboxylate | 493 mmol, 105 g | O=CCC1N(CCC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | dichloromethane | 2,000 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1,000 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1,000 ml | ClCCl | CH2Cl2
product | tert-butyl 2-(3,3-dibromoprop-2-en-1-yl)pyrrolidine-1-carboxylate | BrC(=CCC1N(CCC1)C(=O)OC(C)(C)C)Br | C12H19Br2NO2
